US07435727B2
3-[5-(tert-Butyl-dimethyl-silanyloxy)-5-phenyl-pentanoyl]-4-phenyl-oxazolidin-2-on (1)
30 g of 3-(5-Hydroxy-5-phenyl-pentanoyl)-4-phenyl-oxazolidin-2-on are solved in 50 ml of DMF. After addition of 14.3 g of imidazol and 19 g of tert. -Butyl-dimethylsilylchlorid in 25 ml of DMF the reaction is stirred at room temperature until all components are dissolved (2-4 h). The reaction solution is evaporated, and after water was added extracted by acetic acid ethylester. After drying of the organic phase by magnesium sulfate and evaporation compound I (product 1) is obtained: C26H35NO4Si (453.6) MS (ESI+) 476 (M+Na+).

reactant | 3-(5-Hydroxy-5-phenyl-pentanoyl)-4-phenyl-oxazolidin-2-on | 30 g | OC(CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H21NO4
reactant | imidazol | 14.3 g | N1C=NC=C1 | C3H4N2
reactant | tert. -Butyl-dimethylsilylchlorid | 19 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-[5-(tert-Butyl-dimethyl-silanyloxy)-5-phenyl-pentanoyl]-4-phenyl-oxazolidin-2-on | C(C)(C)(C)[Si](OC(CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)C1=CC=CC=C1)(C)C | C26H35NO4Si
